US07642264B2
6-Methyl-4-(4-trifluoromethyl-phenyl)-[2,2′;6′,4″]terpyridin-2″-ylamine
A mixture of the above described 2″-(2,5-dimethyl-pyrrol-1-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,2′;6′,4″]terpyridine (470 mg, 0.969 mmol), hydroxylamine hydrochloride (337 mg, 4.849 mmol) 1.5 M NaOH-sol. (1.62 mL, 2.43 mmol) in 1-propanole (5 mL) was stirred at 120° C. for 3 h in a sealed tube. Cooled to rt, poured the reaction mixture directly on a silica gel column and chromatographed with EtOAc followed by trituration with diethyl ether/heptane to give the title compound (0.110 g, 27%) as a light yellow solid. MS (ISP) 407.3 [(M+H)+]; mp 160° C.

reactant | 2″-(2,5-dimethyl-pyrrol-1-yl)-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,2′;6′,4″]terpyridine | 0.969 mmol, 470 mg | CC=1N(C(=CC1)C)C1=NC=CC(=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C29H23F3N4
reactant | hydroxylamine hydrochloride | 4.849 mmol, 1.5 M, 337 mg | Cl.NO
product | 6-Methyl-4-(4-trifluoromethyl-phenyl)-[2,2′;6′,4″]terpyridin-2″-ylamine | 0.110 g, 27% | CC1=CC(=CC(=N1)C1=NC(=CC=C1)C1=CC(=NC=C1)N)C1=CC=C(C=C1)C(F)(F)F | C23H17F3N4
